US07700594B2
Benzyl 4-(8-amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate
A mixture of benzyl 4-(8-chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate (0.500 g, 0.00101 mol) in IPA (20 mL) was cooled to at −78° C. and treated with a stream of ammonia gas over 3 minutes. The resulting solution was heated at 110° C. in a Parr vessel prior to concentration in vacuo, suspension in DCM and filtration through a bed of Celite. The filtrate was concentrated in vacuo to afford 0.504 g of desired product. 1H NMR (400 MHz, CDCl3): δ 1.88-2.02 (m, 2H), 2.99-3.10 (m, 3H), 4.24-4.41 (m, 2H), 5.15 s, 2H), 6.03 (br, 2H), 7.03 (d, J=4.8 Hz, 1H), 7.24 (d, J=5.2 Hz, 1H), 7.31-7.40 (m, 5H). MS (ES+): m/z 479.33 [MH+].

reactant | benzyl 4-(8-chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate | 0.00101 mol, 0.500 g | ClC=1C=2N(C=CN1)C(=NC2I)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C19H18ClIN4O2
reactant | ammonia | N | H3N
solvent | IPA | 20 mL | CC(C)O | C3H8O
product | Benzyl 4-(8-amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate | 0.504 g | NC=1C=2N(C=CN1)C(=NC2I)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C19H20IN5O2
